US07947693B2
b) 2-Amino-5-{[(1S)-1-(2-fluorophenyl)ethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-7-ol
KSCN (10.76 g, 110.7 mmol) and pyridine (3.9 mL, 49.2 mmol) was added to 6-amino-2-{[(1S)-1-(2-fluorophenyl)ethyl]thio}pyrimidin-4-ol (6.53 g, 24.6 mmol) in DMF (70 mL). The mixture was cooled to 0° C. and Br2 was added dropwise. After 3.5 h the reaction mixture was poured into water and the formed precipitate was collected by filtration. The solid was suspended in a mixture of DMF (75 mL) and water (15 mL) and heated to 120° C. for 8 h. The reaction mixture was poured into water and the solid was collected by filtration and dried in vacuum at 40° C. to give the title compound (6.42 g, 81% yield).

reactant | KSCN | 110.7 mmol, 10.76 g | C(#N)[S-].[K+]
reactant | pyridine | 49.2 mmol, 3.9 mL | N1=CC=CC=C1 | C5H5N
reactant | 6-amino-2-{[(1S)-1-(2-fluorophenyl)ethyl]thio}pyrimidin-4-ol | 24.6 mmol, 6.53 g | NC1=CC(=NC(=N1)S[C@@H](C)C1=C(C=CC=C1)F)O | C12H12FN3OS
reactant | Br2 | BrBr | Br2
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Amino-5-{[(1S)-1-(2-fluorophenyl)ethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-7-ol | 6.42 g, 81% yield | NC=1SC2=C(N=C(N=C2O)S[C@@H](C)C2=C(C=CC=C2)F)N1 | C13H11FN4OS2
